US07157464B2
Synthesis of 4-Chloro-3-thiophen-2-yl-1H-pyrazole-5-carboxylic acid ethyl ester
Following protocol L, 3-Thiophen-2-yl-1H-pyrazole-5-carboxylic acid ethyl ester was treated with NCS in DMF to yield the title compound.

reactant | 3-Thiophen-2-yl-1H-pyrazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NN1)C=1SC=CC1 | C10H10N2O2S
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Chloro-3-thiophen-2-yl-1H-pyrazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C(=NN1)C=1SC=CC1)Cl | C10H9ClN2O2S
